US06762180B1
(14) N-acryloyl-N-isopropyl-4-nitro-aniline
Prepared from 4-isopropylamino-nitrobenzene and acrylic acid chloride

reactant | 4-isopropylamino-nitrobenzene | C(C)(C)NC1=CC=C(C=C1)[N+](=O)[O-] | C9H12N2O2
reactant | acrylic acid chloride | C(C=C)(=O)Cl | C3H3ClO
product | N-acryloyl-N-isopropyl-4-nitro-aniline | C(C=C)(=O)N(C1=CC=C(C=C1)[N+](=O)[O-])C(C)C | C12H14N2O3
